US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-{[4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 10.76 (brs, 1H), 8.36 (m, 1H), 8.28 (m, 1H), 7.92 (d, 0.6H), 7.86 (d, 0.4H), 7.73 (m, 2H), 7.03 (t, 1H), 7.00 (s, 1H), 6.92 (s, 2H), 6.03 (s, 2H), 5.08 (s, 2H), 4.84 (s, 1.2H), 4.74 (s, 0.8H), 4.47 (s, 0.8H), 4.30 (s, 1.2H), 4.24 (t, 1.2H), 4.08 (t, 0.8H), 4.01 (t, 1.2H), 3.89 (t, 0.8H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid | C(C1=CC=2OCOC2C=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C15H13N3O7
product | 1-(Benzothiazole-2-sulfonyl)-4-{[4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetyl}-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C(=O)N=C(NC(=O)OCC1=CC=3OCOC3C=C1)C=C2)=O)=O | C26H22N6O9S2
